US09416132B2
To the solution of compound 2-(4-(aminomethyl)piperidin-1-yl)ethanol (150 mg, 0.95 mmol) and compound 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (200 mg, 0.64 mmol) in 3 mL DMSO was added DIEA (0.3 mL, 1.37 mmol) and 10 mg CsF, the solvent was stirred for 5 h at 120° C., Then the mixture was purified by HPLC to afford the compound 2-(4-(((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)cyclohexyl)ethanol (34 mg, 8.2%) as a brown solid.

reactant | 2-(4-(aminomethyl)piperidin-1-yl)ethanol | 0.95 mmol, 150 mg | NCC1CCN(CC1)CCO | C8H18N2O
reactant | 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 0.64 mmol, 200 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | DIEA | 1.37 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CsF | 10 mg | [F-].[Cs+]
reactant | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 2-(4-(((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)cyclohexyl)ethanol | 34 mg, 8.2% | FC(OC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NCC2CCC(CC2)CCO)(F)F | C22H25F3N4O2
